US08134001B2
In a manner similar to the method described in Example 50a, 2-fluoro-5-iodobenzaldehyde (3.6 g, 14.4 mmol) (Aldrich) was reacted with methyl 4-hydroxybenzoate (2.62 g, 17.3 mmol) and K2CO3 in N,N-dimethylacetamide to give 4-(2-formyl-4-iodo-phenoxy)-benzoic acid methyl ester as a yellow oil (Yield 3.8 g, 69%).

reactant | 2-fluoro-5-iodobenzaldehyde | 14.4 mmol, 3.6 g | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | methyl 4-hydroxybenzoate | 17.3 mmol, 2.62 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 4-(2-formyl-4-iodo-phenoxy)-benzoic acid methyl ester | Yield 3.8 g, 69% | COC(C1=CC=C(C=C1)OC1=C(C=C(C=C1)I)C=O)=O | C15H11IO4
